US08729274B2
cis-Ethyl 6-chloro-3a-methyl-5-oxo-3,3a,4,5-tetrahydro-1H-benzo[e]isoindole-2(9bH)-carboxylate (0.162 mmol, 50 mg) was dissolved in dichloromethane (1 ml). Iodotrimethylsilane (0.487 mmol, 0.070 ml, 98 mg) was added and the reaction mixture was heated to 100° C. for 30 minutes in the microwave. 2 N HCl in MeOH (2 ml) was added to the reaction mixture was stirred at rt for 20 minutes. The reaction mixture was then concentrated in vacuo and the residue was dissolved in 2 N HCl and washed with ether. The acidic extract was basified using 4 N NaOH and extracted with ether. The ether extract was then dried over magnesium sulphate, filtered and concentrated in vacuo to give a crude residue that was purified by basic prep-HPLC. The purified fractions were concentrated in vacuo and then redissolved in 2 N HCl in MeOH and concentrated in vacuo to give cis-6-chloro-3a-methyl-2,3,3a,4-tetrahydro-1H-benzo[e]isoindol-5(9bH)-one hydrochloride (2.4 mg), m/z=236.3 [M+H]+.

reactant | cis-Ethyl 6-chloro-3a-methyl-5-oxo-3,3a,4,5-tetrahydro-1H-benzo[e]isoindole-2(9bH)-carboxylate | 0.162 mmol, 50 mg | ClC1=CC=CC=2[C@H]3CN(C[C@]3(CC(C21)=O)C)C(=O)OCC | C16H18ClNO3
reactant | Iodotrimethylsilane | 0.487 mmol, 0.070 ml, 98 mg | I[Si](C)(C)C | C3H9ISi
reactant | HCl | 2 N | Cl | ClH
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | MeOH | 2 ml | CO | CH4O
product | cis-6-chloro-3a-methyl-2,3,3a,4-tetrahydro-1H-benzo[e]isoindol-5(9bH)-one hydrochloride | 2.4 mg | Cl.ClC1=CC=CC=2[C@H]3CNC[C@]3(CC(C21)=O)C | InChI=1S/C13H14ClNO.ClH/c1-13-5-11(16)12-8(3-2-4-10(12)14)9(13)6-15-7-13;/h2-4,9,15H,5-7H2,1H3;1H/t9-,13-;/m1./s1
